US08686026B2
Anhydrous zinc(II) chloride (2.73 g, 20.00 mmol) was stirred in dry benzene (15 ml) while diethylamine (1.558 ml, 15.00 mmol) and t-butanol (1.435 ml, 15.00 mmol) were added, and the resulting mixture was stirred at room temperature for 90 min to give a cloudy solution. To this mixture was added 2-bromo-1-(4-nitrophenyl)ethanone (2.44 g, 10.00 mmol) and 1-(4-nitrophenyl)ethanone (2.477 g, 15.00 mmol), and the resulting mixture was stirred at room temperature overnight. The mixture was poured into water (50 mL) and extracted with ethyl acetate (3×50 ml). The combined organic layers were dried over Na2SO4, filtered and concentrated. The resulting residue was triturated with dichloromethane to give an orange solid that was collected by filtration and dried to give 1,4-Bis(4-nitrophenyl)butane-1,4-dione (2.0 gm, 61% yield).

reactant | diethylamine | 15.00 mmol, 1.558 ml | C(C)NCC | C4H11N
reactant | t-butanol | 15.00 mmol, 1.435 ml | C(C)(C)(C)O | C4H10O
reactant | 2-bromo-1-(4-nitrophenyl)ethanone | 10.00 mmol, 2.44 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | 1-(4-nitrophenyl)ethanone | 15.00 mmol, 2.477 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc(II) chloride | 20.00 mmol, 2.73 g | [Cl-].[Zn+2].[Cl-]
solvent | water | 50 mL | O | H2O
product | 1,4-Bis(4-nitrophenyl)butane-1,4-dione | 2.0 gm, 61% yield | [N+](=O)([O-])C1=CC=C(C=C1)C(CCC(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C16H12N2O6
